US09126993B2
(S)-1-azabicyclo[2.2.2]oct-3-yl[1-(2′,4′-difluorobiphenyl-4-yl)cyclopropyl]carbamate
Using general procedure E, (S)-quinuclidin-3-yl 1-(4-bromophenyl)cyclopropylcarbamate (0.446 g, 1.22 mmol), 2,4-difluorophenyl boronic acid (0.386 g, 2.44 mmol) and Pd(OAc)2 (0.015 g, 0.067 mmol) gave the title compound as a tan solid (0.111 g, 23%). 1H NMR (CDCl3) δ 7.43 (dd, J=8.4, 1.6 Hz, 2H), 7.40-7.33 (m, 1H), 7.31 (d, J=7.7 Hz, 2H), 6.99-6.81 (m, 2H), 5.54 (d, J=48.0 Hz, 1H), 4.82-4.65 (m, 1H), 3.30-3.07 (m, 1H), 2.98-2.44 (m, 5H), 1.97 (d, J=32.7 Hz, 1H), 1.83 (d, J=10.3 Hz, 1H), 1.64 (s, 1H), 1.52 (s, 1H), 1.39 (s, 1H), 1.31 (d, J=6.8 Hz, 4H) ppm. 13C NMR major rotomer (CDCl3) δ 162.2 (dd, J=12.8, 249.1 Hz), 159.8 (dd, J=11.8, 251.0 Hz), 156.9, 156.0, 142.6, 133.1, 131.3 (m), 128.9, 125.6, 124.9, 111.5 (dd, J=3.9, 21.2 Hz) 104.4 (dd, J=25.2, 29.4 Hz), 72.1, 71.6, 55.7, 47.4, 46.5, 35.7, 35.3, 25.5, 24.6, 24.4, 19.5, 18.1 ppm. Purity: LCMS>99.3% (214 nm & 254 nm); retention time 0.90 min; (M+1) 399.0

reactant | (S)-quinuclidin-3-yl 1-(4-bromophenyl)cyclopropylcarbamate | 1.22 mmol, 0.446 g | BrC1=CC=C(C=C1)C1(CC1)NC(O[C@@H]1CN2CCC1CC2)=O | C17H21BrN2O2
reactant | 2,4-difluorophenyl boronic acid | 2.44 mmol, 0.386 g | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
catalyst | Pd(OAc)2 | 0.067 mmol, 0.015 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (S)-1-azabicyclo[2.2.2]oct-3-yl[1-(2′,4′-difluorobiphenyl-4-yl)cyclopropyl]carbamate | 0.111 g, 23% | N12C[C@H](C(CC1)CC2)OC(NC2(CC2)C2=CC=C(C=C2)C2=C(C=C(C=C2)F)F)=O | C23H24F2N2O2
